US04609651
Under argon, 94.4 g of p-dibromobenzene is cooled to -20° C. in 400 ml of absolute ether. To the solution is added dropwise 255 ml of 15% butyllithium in hexane so that the temperature does not rise above -10° C. Then the mixture is agitated for one hour at room temperature. After a negative Gilman test (H. Gilman, J. Swiss, J. Amer. Chem. Soc. 62: 1847 [1940]), the mixture is again cooled to -20° C. and 46 ml of trimethylchlorosilane in 200 ml of absolute ether is added dropwise thereto so that the temperature does not exceed -10° C. After the addition step is finished, the mixture is stirred for 16 hours at room temperature and another hour under reflux. The thus-formed precipitate is suctioned off and thoroughly washed with ether. The resultant filtrate is concentrated and then distilled with a water-jet aspirator, thus producing 65.52 g of p-bromotrimethylsilylbenzene, bp (16 torr) 103°-110° C.

reactant | p-dibromobenzene | 94.4 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | butyllithium | 255 ml | C(CCC)[Li]
reactant | trimethylchlorosilane | 46 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 200 ml | CCOCC | C4H10O
product | p-bromotrimethylsilylbenzene | 65.52 g | BrC1=CC=C(C=C1)[Si](C)(C)C | C9H13BrSi
